Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine / monitoring electrodes
 
Attending: ___
 
Chief Complaint:
Chest Pain 
 
Major Surgical or Invasive Procedure:
Coronary Angiography 

 
History of Present Illness:
___ w/ hypertension, hyperlipidemia and remote history of SVT
on Nadolol, referred to ED by PCP ___ 2 weeks exertional 
dyspnea.
Pt reports he is able to tolerate ___ walking for 40 min,
but develops dyspnea after only a few minutes of walking uphill
which is unusual for him. Symptoms are associated with an
epigastric burning sensation that travels up his neck along with
a "stuck sensation" at the back of his throat. SOB and 
epigastric
burning resolves w/ rest. Sensation at the back of the throat
persists for several hours. 
 
In the ED...  
- Initial vitals: 95.5 HR 80 BP 144/106 RR 17 O2 98% RA
- EKG: SR NA NI, no acute ischemic changes 
- ___ notable for troponin < 0.01 x2, Na 133
- Patient was given:  nothing

He subsequently underwent stress echo which showed:
ST depression of ___ in V4/5 & in inferior distribution.
Symptoms developed with exertion, possibly improved at peak
activity, but definitively improved at rest. 

It was thought that while some of his symptoms are atypical, 
they
do appear exertional and the ST depressions fit coronary
distribution. The case was discussed with the ___ cardiology
attending with plan to admit to cardiology for catheterization.

- Vitals on transfer: AF HR 76 BP 143/91 RR 13 O2 94% RA
 
On the floor, pt endorses the above history. He currently does
not have any symptoms and feels well. He reports a history of 
SVT
several years ago for which he takes Nadolol; there was an
extensive work up at that time which was ultimately unrevealing.
He also states that he had a stress test ___ years ago which was
"positive", prompting a catheterization which was reportedly
normal. 

ROS notable for +fatigue, +decreased appetite with some
associated weight loss. 
 
REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of paroxysmal
nocturnal dyspnea, orthopnea, ankle edema, syncope/presyncope,
exertional buttock or calf pain. He also denies cough,
hemoptysis, black stools or red stools, fevers/chills. All of 
the
other review of systems were negative. 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  

2. CARDIAC HISTORY  
- SVT ~ ___ years ago, negative work up, on nadolol
- Stress test ___ years ago was positive, prompting a cath;
normal results per patient

3. OTHER PAST MEDICAL HISTORY
- Alcohol abuse ___ glasses of wine/night)
- History of squamous cell CA of the face
- Fatty liver
- Gallstones
- BPH
 
Social History:
___
Family History:
Brother - atrial fibrillation, colon cancer
Mother - atrial fibrillation, stroke, thyroid cancer
Dad (living) - CAD/MI in his ___, DMII
Sister - brain CA
Significant FH of colon CA
 
Physical Exam:
On Admission:
VS: ___ 0009 Temp: 97.5 PO BP: 148/87 R Lying HR: 72 RR: 16
O2 sat: 94% O2 delivery: Ra 
GENERAL: Well appearing, younger than stated age, facial redness
HEENT: MMM
NECK: supple, no LAD, no JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: wwp, no excoriations or lesions, no rashes

Upon Discharge: 
GENERAL: Well appearing, younger than
stated age, facial redness
HEENT: MMM
NECK: supple, no LAD, no JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: wwp, no excoriations or lesions, no rashes
 
Pertinent Results:
___ 05:30AM BLOOD ___ 
___ Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD ___ 
___
___ 05:30AM BLOOD ___ ___
___ 05:30AM BLOOD ___
___ 12:11PM BLOOD ___ 
___ Plt ___
___ 12:11PM BLOOD ___ 
___ Im ___ 
___
___ 12:11PM BLOOD ___ ___
___ 12:11PM BLOOD Plt ___
___ 12:11PM BLOOD ___ 
___
___ 12:11PM BLOOD cTropnT-<0.01
___ 03:12PM BLOOD cTropnT-<0.01
___ 12:11PM BLOOD ___
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
___ with HTN and HLD presenting w/ 2 weeks of dyspnea on 
exertion and epigastric burning, found to have ischemic changes 
on stress ECHO, admitted to cardiology service for unstable 
angina and cardiac catheterization on ___ revealing no flow 
limiting lesions.

# CORONARIES: No flow limiting leions.
# PUMP: LVEF ___ (ECHO ___ ___
# RHYTHM: normal sinus rhythm 

====================
Active Issues
====================
# Unstable angina
Patient presented with epigastric/throat burning x2 weeks. A 
stress echo demonstrated ischemic changes ___ mm or horizontal 
ST segment depression in leads ___ and ___ mm of horizontal ST 
segment depression in the inferior leads and leads V3 and V6). 
Troponins were ordered and were negative x2. The patient was 
admitted for coronary angiography in the setting of positive 
stress test. The patient remained chest pain free throughout his 
stay. Cornoary angiography was performed via the right radial 
artery with no evidence of stenosis requiring acute 
intervention. The patient was continued on atorvastatin 40 and 
ASA81. Nadolol was continued for history of NSVT. 

# Hyponatremia
Mild, Na 133. Euvolemic on exam. Likely secondary to 
chlorthalidone. Hyponatremia resolved with holding of 
chlorthalidone. Na on discharge was 141.

# Hypertension
Currently 140s/80s, though evidence of diastolic hypertension 
(___) in the ED. Patients blood pressure stabilized during 
the admission on home antihypertensives including losartan and 
nadolol (chlorthaladone held for hyponatremia). 

# Hyperlipidemia
- atorvastatin 40 mg QHS 

# Alcohol abuse
No h/o withdrawal. Drinks ___ glasses of wine/night. No evidence 
of hallucinations, anxiety, tremor (no tachycardia but on BB). 
Placed on CIWA scale while inpatient and no benzos given during 
stay.

# Decreased appetite
# Subjective, unintentional weight loss Etiology unclear. Pt is 
up to date on cancer screenings. 
- Consider nutrition consult depending on how long pt is 
inpatient

# Dry eyes:
Home Fluorometholone (FML) 0.1 % Drops (TID) ___. 
- Ordered for artificial tears for now
- Consider discussing with pharmacy re: alternative to 
Flurometholone

====================
TRANSITIONAL ISSUES:
====================
[]subjective decreased appetite with weight loss
[]counseling for alcohol use disorder 

- New Meds: 
- Stopped/Held Meds: Stopped chlorthalidone 
- Changed Meds: none 
- ___ appointments: PCP 
- ___ Needed: none 
- Incidental Findings: none 
- Discharge weight: 86.4kg 
- Discharge creatinine:0.8

# CODE: full 
# CONTACT: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Chlorthalidone 25 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Nadolol 40 mg PO QHS h/o SVT 
5. Aspirin 81 mg PO DAILY 
6. Cialis (tadalafil) ___ mg oral DAILY:PRN sexual activity 
7. fluorometholone 0.1 % ophthalmic (eye) TID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Cialis (tadalafil) ___ mg oral DAILY:PRN sexual activity  
4.  fluorometholone 0.1 % ophthalmic (eye) TID  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Nadolol 40 mg PO QHS h/o SVT  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Unstable Angina

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
   
You came to ___ because you were having chest pain and a 
positive stress test. The vessels that supply blood to your 
heart were evaluated by catheterization and no blockages were 
seen. Please see more details listed below about what happened 
while you were in the hospital and your instructions for what to 
do after leaving the hospital. It was a pleasure participating 
in your care. We wish you the best!  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You underwent observation with heart monitoring and abnormal 
rhythms were noted
- You did not have chest pain during your stay 
- Your heart vessel study did not show any blockages  
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below).
- Please take all of your medications as prescribed (see below). 
 
- Seek medical attention if you have recurrent chest pain or 
other symptoms of concern. 

Sincerely,
Your ___ Care Team  

 
Followup Instructions:
___